US06800629B2
In 60 mL of dimethyl sulfoxide was dissolved 3.0 g of 3,6-dichloro-2-pyrazinecarbonitrile. After adding 3.0 g of potassium fluoride, the mixture thus obtained was stirred at 90-100° C. for 2 hours. The reaction mixture was returned to room temperature, to which were successively added 2.1 g of 2-methyl-1,3-cyclopentandione and 7.2 ml of triethylamine. The mixture thus obtained was stirred at room temperature for one hour. The reaction mixture was added to a mixture of 50 mL of ethyl acetate and 200 mL of water, and the organic layer was separated. The organic layer thus obtained was washed successively with water and saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by silica gel column chromatography [eluent: n-hexane:ethyl acetate=2:1] to obtain 1.7 g of 6-fluoro-3-[(2-methyl-3-oxo-1-cyclopenten-1-yl)oxy]-2pyrazinecarbonitrile as a yellow-colored solid product.

reactant | 3,6-dichloro-2-pyrazinecarbonitrile | 3.0 g | ClC=1C(=NC(=CN1)Cl)C#N | C5HCl2N3
reactant | potassium fluoride | 3.0 g | [F-].[K+]
reactant | 2-methyl-1,3-cyclopentandione | 2.1 g | CC1C(CCC1=O)=O | C6H8O2
reactant | triethylamine | 7.2 ml | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 60 mL | CS(=O)C | C2H6OS
solvent | water | 200 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 6-fluoro-3-[(2-methyl-3-oxo-1-cyclopenten-1-yl)oxy]-2pyrazinecarbonitrile | 1.7 g | FC1=CN=C(C(=N1)C#N)OC1=C(C(CC1)=O)C | C11H8FN3O2
